US06008230
To a solution of 4-hydroxypyridine (114 mg) in N-methylpyrrolidone (3 ml) was added sodium hydride (60% in oil, 28.9 mg) under ice-cooling, and the mixture was stirred for 30 minutes. To the mixture was added 4-chloro-8-(2,6-dichlorobenzoylamino)-3-methylquinoline (200 mg), and the mixture was stirred for 1.5 hours at 120° C. The mixture was extracted with ethyl acetate, and the extract was washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate-methanol-dichloromethane) and crystallized from diethyl ether to give 8-(2,6-dichlorobenzoylamino)-3-methyl-4-(1,4-dihydro-4-oxopyridin-1-yl)quinoline (185 mg) as white crystal.

reactant | 4-hydroxypyridine | 114 mg | OC1=CC=NC=C1 | C5H5NO
reactant | sodium hydride | 28.9 mg | [H-].[Na+]
reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-3-methylquinoline | 200 mg | ClC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C17H11Cl3N2O
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 8-(2,6-dichlorobenzoylamino)-3-methyl-4-(1,4-dihydro-4-oxopyridin-1-yl)quinoline | 185 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)C)N2C=CC(C=C2)=O)C(=CC=C1)Cl | C22H15Cl2N3O2
